US09260436B2
152 mg of p-toluenesulfonyl chloride was added to a mixture of 246 mg of [2-(2-ethylsulfanylphenyl)-7-trifluoromethylpyrido[3,2-d]pyrimidin-4-yl]-hydrazine, 74 mg of pyridine and 5 ml of acetonitrile, under ice cooling, and the mixture was stirred at room temperature for 15 minutes. A saturated aqueous sodium bicarbonate solution was added to the reaction mixture, and the mixture was extracted with t-butyl methyl ether. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was washed with t-butyl methyl ether and n-hexane, and then dried to obtain 156 mg of 1-[2-(2-ethylsulfanylphenyl)-7-trifluoromethylpyrido[3,2-d]pyrimidin-4-yl]-2-tosylhydrazine.

reactant | p-toluenesulfonyl chloride | 152 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | [2-(2-ethylsulfanylphenyl)-7-trifluoromethylpyrido[3,2-d]pyrimidin-4-yl]-hydrazine | 246 mg | C(C)SC1=C(C=CC=C1)C=1N=C(C2=C(N1)C=C(C=N2)C(F)(F)F)NN | C16H14F3N5S
reactant | pyridine | 74 mg | N1=CC=CC=C1 | C5H5N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-[2-(2-ethylsulfanylphenyl)-7-trifluoromethylpyrido[3,2-d]pyrimidin-4-yl]-2-tosylhydrazine | 156 mg | C(C)SC1=C(C=CC=C1)C=1N=C(C2=C(N1)C=C(C=N2)C(F)(F)F)NNS(=O)(=O)C2=CC=C(C)C=C2 | C23H20F3N5O2S2
